US04810713
4-[Bis(4-fluorophenyl)methyl]-1-(2-phenoxyethyl)piperidine oxalate [1:1]
A mixture, 5.83 g (0.02 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine 4.02 g (0.02 mole) of (2-bromoethoxy)benzene and sodium carbonate (3.18 g, 0.03 mole) was heated overnight at gentle reflux in 300 ml of 1-butanol. The reaction was filtered and solvent removed in vacuo. The residue was dissolved in chloroform and extracted with water and 5% sodium hydroxide. Removal of chloroform gave an oil which was converted to the oxalate salt. The salt was recrystallized from methanol-diethyl ether to give 6.0 g (60.3%) of white crystalline product, m.p. 180°-182° C.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.02 mole, 5.83 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | (2-bromoethoxy)benzene | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | sodium carbonate | 0.03 mole, 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-butanol | 300 ml | C(CCC)O | C4H10O
product | 4-[Bis(4-fluorophenyl)methyl]-1-(2-phenoxyethyl)piperidine oxalate | 6.0 g, 60.3% | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCOC1=CC=CC=C1)C1=CC=C(C=C1)F | InChI=1S/C26H27F2NO.C2H2O4/c27-23-10-6-20(7-11-23)26(21-8-12-24(28)13-9-21)22-14-16-29(17-15-22)18-19-30-25-4-2-1-3-5-25;3-1(4)2(5)6/h1-13,22,26H,14-19H2;(H,3,4)(H,5,6)
